US06506859B1
Example 2 N-(n-pentyl)-2-pyridylmethanimine (PPMI).
n-Pentylamine (20.3 g, 0.23 mol) was added dropwise to pyridine-2-carboxaldehyde (25.0 g, 0.23 mol) with stirring in an ice bath. After complete addition of the amine, anhydrous magnesium sulfate (6 g) was added and the slurry stirred for 2 hours at 25° C. The solution was filtered, solvent removed, and the product purified by distillation under reduced pressure (0.5 mm Hg at 80° C.) to give a yellow oil. Yield: 29.6 g (73%). 1H NMR (CDCl3, 500 MHz): δ8.64 (m, 1H), 8.38 (s, 1H), 7.99 (m, 1H), 7.72 (m, 1H), 7.28 (m, 1H), 3.67 (t, 2H), 1.73 (sextet, 2H), 1.36 (overlapping quintets, 2H each), 0.90 (t, 3H), GCMS m/e 176.

reactant | n-Pentylamine | 0.23 mol, 20.3 g | C(CCCC)N | C5H13N
reactant | pyridine-2-carboxaldehyde | 0.23 mol, 25.0 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | magnesium sulfate | 6 g | S(=O)(=O)([O-])[O-].[Mg+2]
product | N-(n-pentyl)-2-pyridylmethanimine | C(CCCC)N=CC1=NC=CC=C1 | C11H16N2
